US05563163
A solution of the free base of 3,5-dichloro-2-[2-(4-morpholinyl) ethoxy) pyridine-4-carboxylic acid hydrochloride (3.6 g, 0.01 mol) and cesium carbonate (4.85 g, 0.015 mol) in methanol (50 ml) was stirred for 30 minutes. The methanol was removed in vacuo and the residue was dissolved in DMF (50 ml). 2-Chloromethyl-4-(isopropyl)saccharin (3.0 g, 0.01 mol) was then added and the reaction mixture was heated at 80° C. for 3 hours. The DMF was removed in vacuo, the residue was taken up in methylene chloride and was filtered through charcoal. The solvent was removed in vacuo, the residue was taken up in tert-butyl-methylether and the solution was filtered. The solvent was removed in vacuo and the residue was treated with ethereal HCl. A gum was obtained which was triturated with CH3CN to afford 0.5 g (9%) of 4-(isopropyl]-2-saccharinylmethyl 3.5-dichloro-2-[2-(4-morpholinyl)ethoxy]pyridine-4-carboxylate hydrochloride as a white solid, m.p. 120°-140° C.

reactant | 3,5-dichloro-2-[2-(4-morpholinyl) ethoxy) pyridine-4-carboxylic acid hydrochloride | 0.01 mol, 3.6 g | Cl.ClC=1C(=NC=C(C1C(=O)O)Cl)OCCN1CCOCC1
reactant | cesium carbonate | 0.015 mol, 4.85 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Chloromethyl-4-(isopropyl)saccharin | 0.01 mol, 3.0 g | ClCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C(C)C | C11H12ClNO3S
solvent | methanol | 50 ml | CO | CH4O
product | 4-(isopropyl]-2-saccharinylmethyl 3.5-dichloro-2-[2-(4-morpholinyl)ethoxy]pyridine-4-carboxylate hydrochloride | 0.5 g, 9% | Cl.ClC=1C(=NC=C(C1C(=O)OCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C(C)C)Cl)OCCN1CCOCC1 | InChI=1S/C23H25Cl2N3O7S.ClH/c1-14(2)15-4-3-5-17-18(15)22(29)28(36(17,31)32)13-35-23(30)19-16(24)12-26-21(20(19)25)34-11-8-27-6-9-33-10-7-27;/h3-5,12,14H,6-11,13H2,1-2H3;1H
